US05142056
A. Bis-(2- phenylethyl)sulfide
A solution of 7.65 g (32 mmol) of sodium sulfide nonahydrate and 8.7 ml (64 mmol) of 2-bromoethylbenzene in 150 ml of 1:1 tetrahydrofuran:methanol was heated at reflux under inert atmosphere. After 24 h, the solution was allowed to cool and concentrated in vacuo to give the crude desired compound.

reactant | sodium sulfide nonahydrate | 32 mmol, 7.65 g | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
reactant | 2-bromoethylbenzene | 64 mmol, 8.7 ml | BrCCC1=CC=CC=C1 | C8H9Br
reactant | methanol | CO | CH4O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | Bis-(2- phenylethyl)sulfide | C1(=CC=CC=C1)CCSCCC1=CC=CC=C1 | C16H18S
